* NDS8947 ELECTRICAL MODEL  (SO-8 Dual P-Ch DMOS)
* ---------------------------
.SUBCKT  NDS8947   20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO=1.591936  KP=8.376
+ THETA=0.086 VMAX=5E5 TOX=4.25E-8 LEVEL=3)
Cgs     1    3    500p
Rd     20    4    8m 
Dds     4    3    DDS
.MODEL     DDS    D(BV=30.0384   M=0.25  CJO=310p   VJ=0.51)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=90m   TT=29n)
Ra      4    2    8m 
Rs      3    5    2m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1150p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.31   CJO=1150p   VJ=0.18)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS8947
***********************************************************************
* NDS9947 ELECTRICAL MODEL  (SO-8 Dual P-Ch DMOS)
* ------------------------
.SUBCKT  NDS9947  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO=-2.194016   KP=6.28
+  THETA=0.086 VMAX=5E5 TOX=4.25E-8 LEVEL=3)
Cgs     1    3    200p
Rd     20    4    15m 
Dds     4    3    DDS
.MODEL     DDS    D(BV=20.0256   M=0.25  CJO=300p   VJ=0.51)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=90m   TT=29n)
Ra      4    2    10m 
Rs      3    5    2m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1230p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.31   CJO=1230p   VJ=0.18)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS9947
************************************************************************
* NDS9948 ELECTRICAL MODEL  (SO-8 Dual P Ch DMOS)
* ------------------------
.SUBCKT  NDS9948  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO=2.791264  KP=4.288
+  THETA=0.086 VMAX=5E5 LEVEL=3)
Cgs     1    3    400p
Rd     20    4    60m 
Dds     4    3    DDS
.MODEL     DDS    D(BV=60.1104   M=0.3  CJO=300p   VJ=0.9)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-14   N=1   RS=40m   TT=29n)
Ra      4    2    80m 
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    950p
Rcgd    7    4    20meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=950p   VJ=0.12)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS9948
***********************************************************************
* NDS9953 ELECTRICAL MODEL  (SO-8 Dual P-Ch DMOS)
* ------------------------
.SUBCKT  NDS9953  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO=-1.692656  KP=4.448
+ THETA=0.086 VMAX=5E5 TOX=4.25E-8 LEVEL=3)
Cgs     1    3    200p
Rd     20    4    60m 
Dds     4    3    DDS
.MODEL     DDS    D(BV=20.004   M=0.25  CJO=310p   VJ=0.51)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=90m   TT=29n)
Ra      4    2    59m 
Rs      3    5    2m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1100p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.31   CJO=600p   VJ=0.18)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS9953
*************************************************************************
* NDS9953A ELECTRICAL MODEL  (SO-8 Dual P Ch DMOS)
* ------------------------
.SUBCKT  NDS9953A  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO=-1.792224  KP=4.488
+  THETA=0.086 VMAX=5E5 TOX=4.25E-8 LEVEL=3)
Cgs     1    3    400p
Rd     20    4    30m 
Dds     4    3    DDS
.MODEL     DDS    D(BV=30.0384   M=0.3  CJO=300p   VJ=0.9)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=29n)
Ra      4    2    30m 
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    600p
Rcgd    7    4    20meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=600p   VJ=0.12)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS9953A
**********************************************************************

